US07351778B2
1) Preparation of methyl 2-ethyl-3-oxo-butyrate
Under nitrogen atmosphere free of water and oxygen, to a three-necked flask equipped with a dropping funnel were successively added 0.15 mol of potassium tert-butoxide and 150 ml of THF, then stirrer was started. 0.12 Mol of methyl acetoacetate was slowly dropped to the reactor cooled in an ice-water bath. Upon completion of the dropping, the reaction was continued at room temperature for further 1 hr. Then 0.18 mol of ethyl iodide was slowly dropped at room temperature, and then the reaction was heated to reflux for 6 hrs. At the end of the reaction, solvent was evaporated by using a rotatory evaporator, and saturated saline was added to just dissolve the solid. Organic phase was separated, and aqueous phase was extracted with a suitable amount of diethyl ether for three times. The combined organic phase was washed well with saturated saline, then dried over anhydrous sodium sulfate. Solvent was removed by using a rotatory evaporator, and the residue was distilled under reduced pressure to give 0.072 mol of product. Yield 60%.

reactant | oxygen | O=O | O2
reactant | potassium tert-butoxide | 0.15 mol | CC(C)([O-])C.[K+]
reactant | methyl acetoacetate | 0.12 Mol | C(CC(=O)C)(=O)OC | C5H8O3
reactant | ethyl iodide | 0.18 mol | C(C)I | C2H5I
solvent | THF | 150 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | methyl 2-ethyl-3-oxo-butyrate | 0.072 mol, Yield 60% | C(C)C(C(=O)OC)C(C)=O | C7H12O3
